### PR TITLE
lean version bump

### PR DESCRIPTION
**Pull request by ooovi**

### CODE REVIEW

File: ExponentialRamsey/Prereq/Mathlib/Analysis/Calculus/Taylor.lean [hunk 1]
```diff
@@ -63,11 +63,11 @@ theorem taylor_mean_remainder_lagrange_unordered {f : ℝ → ℝ} {x x₀ : ℝ
     intro y hy
     refine pow_ne_zero _ ?_
     rw [sub_ne_zero]
-    cases' le_total x₀ x with h h
-    · rw [uIoo_of_le h] at hy
-      exact hy.2.ne'
-    · rw [uIoo_of_ge h] at hy
-      exact hy.1.ne
+    cases le_total x₀ x with
+    | inl h => rw [uIoo_of_le h] at hy
```
Comment (b-mehta) [inline ExponentialRamsey/Prereq/Mathlib/Analysis/Calculus/Taylor.lean:67]: Can we use the `|` pattern rather than `expose_names` in the other cases too?

**Review by b-mehta — APPROVED** [review]
Nice, thanks!
